US05493044
Preparation of 1-(Triisopropylsilyloxy)-hexane Lot 8887, 461-25
A 250 ml, three-necked flask was fitted with a large magnetic, egg-shaped stir bar, a small, pressure-equalizing addition funnel, a thermocouple connected to a THERM-O-WATCH®, a reflux condenser, and an argon inlet. This apparatus was dried in an oven overnight at 125° C., assembled hot, and allowed to cool to room temperature in a stream of argon. The flask was charged with 32.46 grams (0.168 mole, 1.01 equivalents) of triisopropylsilyl chloride, 11.69 grams (0.172 mole, 1.03 equivalents) of imidazole, and 100 mls of hexane. 1-Hexanol, 17.03 grams (0.167 mole, 1.00 equivalent), was then added dropwise to the resultant slurry. A very mild exotherm was detected. The total feed time was five minutes. A heavy, white precipitate formed after a few more minutes stirring. The reaction mixture became very hard to stir. Therefore, an additional 25 mls of hexane was added to the reaction. The progress of the reaction was monitored by gas chromatography (GC). An aliquot of the clear supernatant was injected into the GC. The sample at 2.33 hours indicated the conversion to the desired product was 73.0%. The reaction mixture was heated to 40° C. with a heating mantle, controlled by the THERM-O-WATCH®. After stirring overnight at 40° C., the conversion had increased to 87.2%. The temperature was increased to 60° C. After seven hours at 60° C., the conversion was 90.0%. The reaction mixture was heated to reflux overnight, under a blanket of argon. The temperature was decreased to 60° C., and the reaction was analyzed by GC. The conversion was 95.2%. The reaction mixture was held at 60° C. for an additional seven hours, then the reaction mixture was allowed to stir at room temperature over the weekend. The conversion had reached 98.1%. The reaction mixture was transferred to a small, dry, Chemglass pressure filter. The tiltrate was collected in a dry, 500 ml flask. The filter cake was rinsed with additional hexane (2×100 ml). The solvent was removed on the rotary evaporator, with the bath temperature set at 40° C.

reactant | triisopropylsilyl chloride | 0.168 mole, 32.46 grams, 1.01 equivalents | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 0.172 mole, 11.69 grams, 1.03 equivalents | N1C=NC=C1 | C3H4N2
reactant | 1-Hexanol | C(CCCCC)O | C6H14O
solvent | hexane | 25 mls | CCCCCC | C6H14
solvent | hexane | 100 mls | CCCCCC | C6H14
product | 1-(Triisopropylsilyloxy)-hexane | C(C)(C)[Si](OCCCCCC)(C(C)C)C(C)C | C15H34OSi
